US06063806
1-Octyl-5-cyano-6-methyl-7-nitroindoline (2.4 g) was dissolved in n-propanol and a solution of NaOH (3.0 g) in water (10 ml) was added, which was followed by refluxing for 20 hr. n-Propanol was evaporated under reduced pressure and ethyl acetate (100 ml) was added to the residue. The mixture was washed with water and dried over anhydrous sodium sulfate. Ethyl acetate was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate/benzenel1/5-1/1) to give 1.4 g of 1-octyl-5-carboxy-6-methyl-7-nitroindoline as crystals.

reactant | 1-Octyl-5-cyano-6-methyl-7-nitroindoline | 2.4 g | C(CCCCCCC)N1CCC2=CC(=C(C(=C12)[N+](=O)[O-])C)C#N | C18H25N3O2
reactant | NaOH | 3.0 g | [OH-].[Na+]
reactant | n-propanol | C(CC)O | C3H8O
solvent | water | 10 ml | O | H2O
product | 1-octyl-5-carboxy-6-methyl-7-nitroindoline | 1.4 g | C(CCCCCCC)N1CCC2=CC(=C(C(=C12)[N+](=O)[O-])C)C(=O)O | C18H26N2O4
